US09102684B2
Preparation of 5-(3,5-Dimethyl-isoxazol-4-yl)-1,3-dimethyl-3-phenyl-1,3-dihydro-indol-2-one
A mixture of 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one (54 mg, 0.196 mmol) and NaH (5.5 mg, 0.203 mmol) in THF (10 mL) is stirred at room temperature for 1.5 h. MeI (48 mg, 0.338 mmol) is added to the mixture and stirred overnight. The solvent is removed in vacuo. The residue is purified by chromatography (ethyl acetate:petroleum ether=1:2) to give the desired compound.

reactant | 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one | 0.196 mmol, 54 mg | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C)C | C20H18N2O2
reactant | NaH | 0.203 mmol, 5.5 mg | [H-].[Na+]
reactant | MeI | 0.338 mmol, 48 mg | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-1,3-dimethyl-3-phenyl-1,3-dihydro-indol-2-one | CC1=NOC(=C1C=1C=C2C(C(N(C2=CC1)C)=O)(C1=CC=CC=C1)C)C | C21H20N2O2
